US08426441B2
Preparation of 4-tert-Butyl-N-{2-methyl-3-[8-(3-methyl-ureido)-imidazo[1,2-a]pyridin-6-yl]-phenyl}-benzamide
To N-[3-(8-Amino-imidazo[1,2-a]pyridin-6-yl)-2-methyl-phenyl]-4-tert-butyl-benzamide (120 mg, 0.3 mmol) in dichloromethane (10 mL) was added diisopropylethylamine (0.13 mL, 2.5 eq). The resulting mixture was cooled to 0° C. and with stirring was added a solution of 20% phosgene in toluene (0.94 mL, 6 eq), and this solution was stirred at 0° C. for 30 minutes. Next, a 2.0M solution of methylamine in THF (3 mL, 20 eq) was added and the resulting mixture was stirred from 0° C. to room temperature overnight. The next day the solvent was removed under reduced pressure at 55° C. and then added ethyl acetate (35 mL) and water (25 mL). The layers were partitioned and then separated and the organic layer was dried over magnesium sulfate, filtered, and concentrated. The crude material was purified by Preparative Thin Layer Chromatography eluting with 50% acetone in hexanes to give the title compound as an off-white powder (47 mg), ((M+H)+=456).

reactant | N-[3-(8-Amino-imidazo[1,2-a]pyridin-6-yl)-2-methyl-phenyl]-4-tert-butyl-benzamide | 0.3 mmol, 120 mg | NC=1C=2N(C=C(C1)C=1C(=C(C=CC1)NC(C1=CC=C(C=C1)C(C)(C)C)=O)C)C=CN2 | C25H26N4O
reactant | diisopropylethylamine | 0.13 mL, 2.5 eq | C(C)(C)N(CC)C(C)C | C8H19N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 0.94 mL, 6 eq | C1(=CC=CC=C1)C | C7H8
reactant | methylamine | CN | CH5N
reactant | THF | 3 mL, 20 eq | C1CCOC1 | C4H8O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-tert-Butyl-N-{2-methyl-3-[8-(3-methyl-ureido)-imidazo[1,2-a]pyridin-6-yl]-phenyl}-benzamide | 47 mg | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(C(=CC=C2)C=2C=C(C=3N(C2)C=CN3)NC(=O)NC)C)C=C1 | C27H29N5O2
